US08309580B2
(1) 4-[(cyclohexyl{5-[6-(3-hydroxy-3-methylbutoxy)pyridin-3-yl]-2-methylfuran-3-yl}methyl)amino]benzoic acid
Methyl 4-({cyclohexyl[5-(6-fluoropyridin-3-yl)-2-methylfuran-3-yl]methyl}amino)benzoate (1.7 g) and 3-methyl-1,3-butanediol (2.1 g) were dissolved in tetrahydrofuran (10 mL), 2N lithium hydroxide (4 mL) was added, and the mixture was stirred at 80° C. for 10 hr. The reaction mixture was poured into water, and the mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (10% ethyl acetate/hexane to 50% ethyl acetate/hexane) to give the title compound (0.3 g, 16%) as an amorphous compound.

reactant | Methyl 4-({cyclohexyl[5-(6-fluoropyridin-3-yl)-2-methylfuran-3-yl]methyl}amino)benzoate | 1.7 g | C1(CCCCC1)C(C1=C(OC(=C1)C=1C=NC(=CC1)F)C)NC1=CC=C(C(=O)OC)C=C1 | C25H27FN2O3
reactant | 3-methyl-1,3-butanediol | 2.1 g | CC(CCO)(C)O | C5H12O2
reactant | lithium hydroxide | 2N, 4 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[(cyclohexyl{5-[6-(3-hydroxy-3-methylbutoxy)pyridin-3-yl]-2-methylfuran-3-yl}methyl)amino]benzoic acid | 0.3 g, 16% | C1(CCCCC1)C(C1=C(OC(=C1)C=1C=NC(=CC1)OCCC(C)(C)O)C)NC1=CC=C(C(=O)O)C=C1 | C29H36N2O5
